US05364992
2-Chloroheptafluoropropane (1.38 g/hr) and hydrogen (22 cc/min) were fed into the 1/4" Inconel® nickel alloy reactor filled with Inconel® nickel alloy chips (10 g). Operation at 500° C. and 250 psig for 33.3 hours gave an average of 91.3% conversion with 99.4% selectivity to CF3CHFCF3.

reactant | 2-Chloroheptafluoropropane | ClC(C(F)(F)F)(C(F)(F)F)F | C3ClF7
reactant | hydrogen | [H][H] | H2
catalyst | nickel | [Ni] | Ni
product | CF3CHFCF3 | C(F)(F)(F)C(F)C(F)(F)F | C3HF7
